US07157447B2
N-(2-((2-Aminoethyl)carbamoyl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
A mixture of intermediate 190, 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorobenzoic acid, (59 mg, 0.12 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate, HATU (76 mg, 0.2 mmol; Aldrich) in DMF (1 mL) was stirred for 20 min. To this mixture was added ethanolamine (20 mg, 0.3 mmol) and the stirring continued overnight. The mixture was concentrated in vacuo, dissolved in CH2Cl2, washed with water then dried (MgSO4), filtered, and concentrated to provide 55 mg (Yield 87%) of the title compound: LC/MS m/z 525 (M+H).

reactant | 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorobenzoic acid | 0.12 mmol, 59 mg | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC1=C(C(=O)O)C=C(C=C1)F | C25H24FN3O6
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | HATU | 0.2 mmol, 76 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ethanolamine | 0.3 mmol, 20 mg | C(O)CN | C2H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2-((2-Aminoethyl)carbamoyl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 55 mg, Yield 87% | NCCNC(=O)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC(=C1)F | C27H30FN5O5
